US08835423B2
Intermediate A-2: 2-fluoro-3-[(trimethylsilyl)ethynyl]pyridine
Into a 1-neck round-bottom flask was added 2-fluoro-3-iodopyridine (1.0 g, 0.0045 mol), trimethylsilylacetylene (0.95 mL, 6.7 mmol), bis(triphenylphosphine)palladium(II) chloride (0.2 g, 0.2 mmol), copper(I) iodide (0.07 g, 0.4 mmol), and triethylamine (0.94 mL, 6.7 mmol) in N,N-dimethylformamide (20 mL). The reaction was stirred at 25° C. for 16 hours. The reaction was extracted with EtOAc, washed with brine, dried over MgSO4, and concentrated under vacuum. The product was purified by column chromatography on silica gel (10% ethyl acetate 90% hexanes) to give 0.747 g of the desired product. 1H NMR (400 MHz, CDCl3): δ 7.86-7.89 (m, 1H), 7.55-7.61 (m, 1H), 6.86-6.90 (m, 1H). MS [M+H]=194.0

reactant | 2-fluoro-3-iodopyridine | 0.0045 mol, 1.0 g | FC1=NC=CC=C1I | C5H3FIN
reactant | trimethylsilylacetylene | 6.7 mmol, 0.95 mL | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 6.7 mmol, 0.94 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.2 mmol, 0.2 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.4 mmol, 0.07 g | [Cu]I
product | 2-fluoro-3-[(trimethylsilyl)ethynyl]pyridine | 0.747 g | FC1=NC=CC=C1C#C[Si](C)(C)C | C10H12FNSi
